US06645990B2
7] To 6-bromo-2-pyridinecarboxaldehyde (400 mg, 2.15 mmol) was added 4-(1-pyrrolidinyl)-piperidine (500 mg, 3.22 mmol) in dry CH2Cl2 (15 mL) to give 2-bromo-6-[4-(1-pyrrolidinyl)-piperidinylmethyl]pyridine as a pale yellow solid. MS m/z: 326.1(M+2H). Calc'd for C15H22BrN3: 324.26.

reactant | 6-bromo-2-pyridinecarboxaldehyde | 2.15 mmol, 400 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 4-(1-pyrrolidinyl)-piperidine | 3.22 mmol, 500 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-6-[4-(1-pyrrolidinyl)-piperidinylmethyl]pyridine | BrC1=NC(=CC=C1)CN1CCC(CC1)N1CCCC1 | C15H22BrN3
